US04431653
A mixture containing the dihydrochloride salt of 3-(1H-imidazol-2-yl)piperidine (0.99 g, 0.0044 M) and methanol (10 ml) which contained sodium methoxide (0.009 M) was stirred at room temperature for 10 min. and dimethylformamide dimethylacetal (10 ml) was added and heated at 90° C. for 8 hrs. The excess of dimethylformamide dimethylacetal was removed to give 3-(1H-imidazol-2-yl)-1-piperidinecarboxaldehyde dimethylacetal. To the mixture of 6-aminopenicillanic acid (0.77 g, 0.0035 M) and diisopropyl ethylamine (0.42 ml) in CHCl3 (30 ml) was added the chloroform solution (30 ml) of the above piperidine carboxaldehyde dimethylacetal at 0° C. The reaction was stirred at 0° C. for 1 hr and then at room temperature for 3 hrs. After this period, the solvent was removed and the residue dissolved in water (30 ml). The aqueous solution, washed with ethylacetate, was acidified to pH 3 with dilute aqueous HCl and purified on Sephadex LH20 columns to give [2S-(2alpha,5alpha,6beta)]-6-[[[3-(1H-imidazol-2-yl)-1-piperidinyl]methylene]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid hydrochloride (0.52 g, 28.8% yield).

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 3-(1H-imidazol-2-yl)piperidine | 0.0044 M, 0.99 g | N1C(=NC=C1)C1CNCCC1 | C8H13N3
reactant | sodium methoxide | 0.009 M | C[O-].[Na+]
reactant | dimethylformamide dimethylacetal | 10 ml | COC(N(C)C)OC | C5H13NO2
solvent | methanol | 10 ml | CO | CH4O
product | 3-(1H-imidazol-2-yl)-1-piperidinecarboxaldehyde dimethylacetal | COC(N1CC(CCC1)C=1NC=CN1)OC | C11H19N3O2
